US06511997B1
Synthesis of 5-(4-fluorophenyl)-3-(2-aminophenylacetylamino)-4-(4-pyridyl)pyrazole
11 mg of 5-(4-fluorophenyl)-3-(2-nitrophenylacetylamino)-4-(4-pyridyl)pyrazole was dissolved in 5 ml of methanol. Then, 100 mg of cyclohexene and 20 mg of 5% palladium-carbon were added thereto, followed by heating under reflux for 1 hour. After the reaction mixture was filtered, the filtrate was concentrated under reduced pressure to obtain 8 mg (79% yield) of the title compound as a light-brown powder.

reactant | 5-(4-fluorophenyl)-3-(2-nitrophenylacetylamino)-4-(4-pyridyl)pyrazole | 11 mg | FC1=CC=C(C=C1)C1=C(C(=NN1)NC(C([N+](=O)[O-])C1=CC=CC=C1)=O)C1=CC=NC=C1 | C22H16FN5O3
reactant | cyclohexene | 100 mg | C1=CCCCC1 | C6H10
solvent | methanol | 5 ml | CO | CH4O
catalyst | palladium-carbon | 20 mg | [C].[Pd]
product | 5-(4-fluorophenyl)-3-(2-aminophenylacetylamino)-4-(4-pyridyl)pyrazole | 8 mg, 79% yield | FC1=CC=C(C=C1)C1=C(C(=NN1)NC(C(N)C1=CC=CC=C1)=O)C1=CC=NC=C1 | C22H18FN5O
